US06653471B2
To a solution of 4-Oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole1,3-dicarboxylic acid 3-methyl ester 1-tert-butyl ester(l.1 g, 3.6 mmol) in DMSO(20 mL) is added 1,3-dibromo-5,5-dimethylhydantoin(1.5 g, 5.4 mmol) portion wise with the aid of a cooling bath and the resulting mixture is stirred for 18 h at RT. Water is added and the reaction mixture is extracted with ether . The combined ether layers are washed with saturated brine, dried over Na2SO4, and concentrated in vacuo. The residue is purified by flash chromatography on silica gel (10% EtOAc/Hex to 25% EtOAc/Hex) to yield 915 mg of 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester as a bright yellow oil (66%). 1H NMR(CDCl3) 1.59 (s, 9H), 1.72-1.84 (m, 1H), 2.12-2.25 (m, 2H), 2.43-2.58 (m, 1H), 3.05-3.14 (m, 1H), 3.40-3.49 (m, 1H), 3.80 (s, 3H), 4.75 (m, 1H), 7.79 (s, 1H)

reactant | 4-Oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole1,3-dicarboxylic acid 3-methyl ester 1-tert-butyl ester | 3.6 mmol, 1 g | C(C)(C)(C)OC(=O)N1C2=C(C(=C1)C(=O)OC)C(CCCC2)=O | C16H21NO5
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 5.4 mmol, 1.5 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | Water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 915 mg, 66% | COC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC(C2=O)Br | C16H20BrNO5
